US03984336
β-Benzylmercaptopropionitrile was prepared according to the procedure of Example 1 using α-toluenethiol (25.0 g; 0.20 moles), acrylonitrile (10.6 g; 0.20 moles) and sodium methoxide (0.5 g).

reactant | α-toluenethiol | 0.20 moles, 25.0 g | C1(=CC=CC=C1)CS | C7H8S
reactant | acrylonitrile | 0.20 moles, 10.6 g | C(C=C)#N | C3H3N
reactant | sodium methoxide | 0.5 g | C[O-].[Na+]
product | β-Benzylmercaptopropionitrile | C(C1=CC=CC=C1)SCCC#N | C10H11NS
